US07592373B2
4.272.b. {(S)-1-[2-(4-amino-2-methoxyphenoxy)ethyl]pyrrolidin-2-yl}methanol
Prepared analogously to Example 3.1.b. from {(S)-1-[2-(2-methoxy-4-nitrophenoxy)ethyl]pyrrolidin-2-yl}methanol. Yield: 0.15 g (83.4% of theory); C14H22N2O3 (M=266.34); calc.: molecular ion peak (M+H)+: 267; found: molecular ion peak (M+H)+: 267; Rf value: 0.15 (silica gel, dichloromethane/methanol 9:1)).

reactant | {(S)-1-[2-(2-methoxy-4-nitrophenoxy)ethyl]pyrrolidin-2-yl}methanol | COC1=C(OCCN2[C@@H](CCC2)CO)C=CC(=C1)[N+](=O)[O-] | C14H20N2O5
solvent | dichloromethane methanol | ClCCl.CO
product | {(S)-1-[2-(4-amino-2-methoxyphenoxy)ethyl]pyrrolidin-2-yl}methanol | NC1=CC(=C(OCCN2[C@@H](CCC2)CO)C=C1)OC | C14H22N2O3
